US06251917B1
a) Ethyl 2-(E-2-(naphth-2-yl)-ethen-1-yl)benzoate
29.7 g (0.13 mol) of 2-vinylnaphthalene, 25 g (0.16 mol) of ethyl 2-bromobenzoate, 22.5 ml (0.16 mol) of triethylamine, 0.54 g of palladium diacetate and 1.44 g of triphenylphosphine in 200 ml of acetonitrile were heated to 100° C. for 20 h. The reaction mixture was then poured into water and the mixture was extracted repeatedly with ethyl acetate. The organic phase was concentrated under reduced pressure and the residue was purified chromatographically on silica gel. 34 g (71%) of the product were obtained.

reactant | 2-vinylnaphthalene | 0.13 mol, 29.7 g | C(=C)C1=CC2=CC=CC=C2C=C1 | C12H10
reactant | ethyl 2-bromobenzoate | 0.16 mol, 25 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
reactant | triethylamine | 0.16 mol, 22.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | palladium diacetate | 0.54 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
catalyst | triphenylphosphine | 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Ethyl 2-(E-2-(naphth-2-yl)-ethen-1-yl)benzoate | 34 g, 71% | C1=C(C=CC2=CC=CC=C12)/C=C/C1=C(C(=O)OCC)C=CC=C1 | C21H18O2
